* LM4871
*****************************************************************************
* (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: LM4871
* Date: 2/8/2013
* Model Type: All In One
* Simulator: Pspice
* Simulator Version: Pspice 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SNAS002E - MAY 2004 - REVISED OCTOBER 2004
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*
*****************************************************************************
* Notes:
*	Parameters Modeled
*	2. PSRR
*	4. Quiescent Current
*	5. Shut Down Current
*	6. Offset Voltage
*	7. ShutDown mode
*   8. CMRR
*****************************************************************************
*$
.SUBCKT LM4871 +IN -IN VDD GND SHUTDOWN BYPASS Vo1 Vo2
V6          13 BYPASS 0
V5          15 14 0
Vos         24 +IN 508U
ECS1        12 0 VALUE = {IF(V(SHUTDOWN,0)>=V(VDDx,0)/2,0,V(11,0))}
R2          Vo2 14 40K
R1          14 Vo1 40K
XU1         13 15 16 BYPASS GBW_SLEW_SE
+ PARAMS: AOL=50 GBW=1MEG SRP=1MEG SRN=1MEG IT=1
XU14        17 18 11 BYPASS GBW_SLEW_SE
+ PARAMS: AOL=50 GBW=1MEG SRP=1MEG SRN=1MEG IT=1
ECS2        VDDx 0 VALUE = {LIMIT(V(VDD,0),2,6)}
XU6         20 Vo2 VIMONP AMETER
+ PARAMS: GAIN=1
XU2         21 Vo1 VIMONN AMETER
+ PARAMS: GAIN=1
XU9         22 20 OUT_CURRENT_CLAMP
+ PARAMS: RSER=1 IMAX=1.42 IMIN=1.42
XU4         23 21 OUT_CURRENT_CLAMP
+ PARAMS: RSER=1 IMAX=1.42 IMIN=1.42
XU3         VDDx 0 16 23 VIMONN BYPASS VCLAMP_W_CLAW
+ PARAMS: VMAXIO=0 VMINIO=0 SLOPE=0
XU5         VDDx 0 12 22 VIMONP BYPASS VCLAMP_W_CLAW
+ PARAMS: VMAXIO=0 VMINIO=0 SLOPE=0
RU5         12 22 0.1
R4          BYPASS -IN 3MEG
R3          +IN BYPASS 3MEG
XU13        VDDx 0 24 25 17 18 BYPASS CMR
+ PARAMS: VMAX=0 VMIN=0
XU11        VDDx 0 BYPASS GND_FLOAT
XU12        VDD 0 SHUTDOWN IQ
+ PARAMS: IQQ=6.5M IOFF=0.6U
XU7         VDDx 0 -IN 25 BYPASS PSRR
+ PARAMS: PSRR=80 FPSRR=2K
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT GBW_SLEW_SE    VIP  VIM  VO  GNDF
+ PARAMS: AOL = 100  GBW = 1MEG  SRP = 1MEG  SRN = 1MEG IT = 1M
.PARAM PI = 3.141592
.PARAM IP = {IF(SRP <= SRN,IT,IT*(SRP/SRN))}
.PARAM IN = {IF(SRN <= SRP,-IT,-IT*(SRN/SRP))}
.PARAM CC = {IF(SRP <= SRN,IT/SRP,IT/SRN)}
.PARAM FP = {GBW/PWR(10,AOL/20)}
.PARAM RC = {1/(2*PI*CC*FP)}
.PARAM GC = {PWR(10,AOL/20)/RC}
G1          GNDF VO VALUE = {LIMIT(GC*V(VIP,VIM),IP,IN)}
C1          VO GNDF {CC}
GR1          VO GNDF VALUE =  {V(VO,GNDF)/RC}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT AMETER   VI  VO VIMON
+ PARAMS: GAIN = 1
VSENSE VI VO DC = 0
EMETER VIMON 0 VALUE = {I(VSENSE)*GAIN}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT OUT_CURRENT_CLAMP   IN  OUT
+PARAMS: RSER = 1 IMAX = 10M  IMIN = 10M
GRESP  OUTX OUT VALUE = {LIMIT(V(OUTX,OUT)/RSER,IMAX,-IMIN)}
GRESN  IN OUTX VALUE = {-V(IN,OUTX)/RSER}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT VCLAMP_W_CLAW   VDD  VSS  VI  VO VIMON  GNDF
+ PARAMS: VMAXIO = 0 VMINIO = 0 SLOPE = 0
EPCLIP  VDD_CLP 0 VALUE = {V(VDD,GNDF) - SLOPE*V(VIMON) - VMAXIO}
ENCLIP  VSS_CLP 0 VALUE = {V(VSS,GNDF) - SLOPE*V(VIMON) + VMINIO}
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF), V(VDD_CLP), V(VSS_CLP))}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT CMR    VDD  VSS  VIP  VIM  VOP VOM  GNDF
+ PARAMS: VMAX = 0 VMIN = 0
ECLAMPP  VOP GNDF VALUE = {LIMIT(V(VIP,GNDF),V(VDD,GNDF) - VMAX, V(VSS,GNDF) + VMIN)}
ECLAMPM  VOM GNDF VALUE = {LIMIT(V(VIM,GNDF),V(VDD,GNDF) - VMAX, V(VSS,GNDF) + VMIN)}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT GND_FLOAT   VDD VSS GNDF
EVCM  GNDF 0  VALUE = {(V(VDD) + V(VSS))*0.5}
.ENDS
*$
**************************************
**                      **
**                               **
**                         **
**                          **
**************************************
.SUBCKT IQ   VDD VSS SHDN
+ PARAMS: IQQ = 1M  IOFF = 1P
G1 VDD VSS VALUE = {IF(V(SHDN) >= V(VDD)/2,IOFF,IQQ)}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT PSRR   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P
.ENDS
*$
